data/oMe_Silver.jsonl
{"reaction_id": "NR-322_1-C(F)(F)F_2-c2ccc(N(C)C)cc2_3-C1CCCCC1_4-C","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(C(F)(F)F)c2ccc(N(C)C)cc2","O=C(C1CCCCC1)C"],"products_smiles": ["C(=C(C1CCCCC1)C)(C(F)(F)F)c2ccc(N(C)C)cc2","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](C(F)(F)F)c2ccc(N(C)C)cc2","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(C1CCCCC1)(C)C1(C(F)(F)F)c2ccc(N(C)C)cc2","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(C1CCCCC1)C)(C(F)(F)F)c2ccc(N(C)C)cc2","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
{"reaction_id": "NR-119_1-c1ccc(cc1)Cl","name": "Jones Oxidation","level": "medium","reactants_smiles": ["C(c1ccc(cc1)Cl)O","O=[Cr](=O)=O"],"products_smiles": ["C(c1ccc(cc1)Cl)(=O)O"],"conditions": "H2SO4, Acetone, H2O","mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "O=[Cr](=O)(O)O","rationale": "In acidic medium, CrO3 is protonated to form chromic acid, increasing its electrophilicity and enabling subsequent ester formation with the alcohol."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccc(cc1)Cl)[OH+][Cr]([O-])(=O)(O)O","rationale": "The alcohol oxygen attacks the electrophilic chromium center, favored by Cr(VI)'s strong electron-withdrawing oxo ligands, forming a chromate ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(cc1)Cl)O[Cr]([O-])(=O)(O)O","rationale": "Proton transfer from the oxonium oxygen to a basic site on the chromate stabilizes the ester and prepares for β-hydride elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(cc1)Cl)C=O","rationale": "Elimination occurs as the α-hydrogen is removed and electrons shift to form the carbonyl, driven by the good leaving ability of reduced chromium species."},{"step": 5,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccc(cc1)Cl)C([O-])[OH2+]","rationale": "The aldehyde undergoes nucleophilic addition of water under acidic conditions, favored by the carbonyl's electrophilicity and proton activation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(cc1)Cl)C(O)O","rationale": "Proton transfer converts the oxonium intermediate into a neutral geminal diol, stabilizing the hydrate form."},{"step": 7,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccc(cc1)Cl)(O)[OH+][Cr]([O-])(=O)(O)O","rationale": "One hydroxyl group of the hydrate attacks electrophilic Cr(VI), forming a second chromate ester, driven by strong Cr–O bond formation."},{"step": 8,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(cc1)Cl)(O)O[Cr]([O-])(=O)(O)O","rationale": "Proton transfer within the ester intermediate increases the leaving group ability of the chromium-containing moiety."},{"step": 9,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(cc1)Cl)(=O)O","rationale": "Elimination of the chromium species forms the carboxylic acid, favored by the stability of the C=O bond and the reduced chromium byproduct."}],"description": "In Jones oxidation, primary alcohols are oxidized to carboxylic acids via chromic acid in acidic aqueous acetone. The alcohol first forms a chromate ester, which undergoes elimination to an aldehyde, then hydrates and oxidizes again to the acid. Acidic conditions facilitate proton transfers and stabilize intermediates, while Cr(VI) acts as a strong electrophile and oxidant."}
